US09326973B2
At 0° C., to a solution of ethyl 4-methylenecyclohexanecarboxylate (0.08 g) in DCE (1 mL) was added chloroiodomethane (0.110 mL, 1.522 mmol), followed by the addition of 1 N diethylzinc in hexane (0.761 mL, 0.761 mmol). The reaction was stirred at 0° C. for 1 hr, then stirred at rt for 18 hrs. The reaction mixture was diluted with EtOAc and 1 N HCl, the organic phase was washed with sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated. The crude product was charged to a 25 g silica gel cartridge which was eluted with a 20 min gradient of 0-6% EtOAc in hexane to yield ethyl spiro[2.5]octane-6-carboxylate. 1H NMR (400 MHz, CDCl3) δ ppm 4.08-4.18 (2H, m), 2.32 (1H, tq, J=11.01, 3.53 Hz), 1.85-1.93 (2H, m), 1.53-1.74 (4H, m), 1.28-1.35 (2H, m), 1.22-1.28 (3H, m), 0.28 (2H, ddd, J=8.53, 5.52, 1.51 Hz), 0.17-0.25 (2H, m).

reactant | ethyl 4-methylenecyclohexanecarboxylate | 0.08 g | C=C1CCC(CC1)C(=O)OCC | C10H16O2
reactant | chloroiodomethane | 1.522 mmol, 0.110 mL | ClCI | CH2ClI
reactant | diethylzinc | 1 N | C(C)[Zn]CC
reactant | hexane | 0.761 mmol, 0.761 mL | CCCCCC | C6H14
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1 N | Cl | ClH
product | ethyl spiro[2.5]octane-6-carboxylate | C1CC12CCC(CC2)C(=O)OCC | C11H18O2
